US04794155
(g) 1,4-Bis-(trimethylsiloxy)benzene
Hydroquinone (60 g) and 127 ml of hexamethyldisilazane are refluxed in a flask equipped with a condenser capped with a drying tube, for 160 minutes until all the solid is dissolved and ammonia evolution has ceased. After an additional 90 minutes, the product is distilled directly from the flask at 82° C. and 0.3 mm of mercury pressure, giving 128.91 g (93 percent yield) of the title compound.

reactant | Hydroquinone | 60 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | hexamethyldisilazane | 127 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
product | 1,4-Bis-(trimethylsiloxy)benzene | 128.91 g, 93 percent yield | C[Si](OC1=CC=C(C=C1)O[Si](C)(C)C)(C)C | C12H22O2Si2
